US05990116
5-[2-(2,5-Dimethoxyphenyl)ethyl]-2-methylamino Benzoic Acid Methylester (Process e)
110 mg of 5-[2-(2,5-dimethoxyphenyl)ethyl]-2-amino benzoic acid methylester are dissolved in 6 ml of dry dimethylformamide and treated with 13 mg of sodium hydride (80% in mineral oil). After stirring for 30 minutes at room temperature, 0.2 ml of methyl iodide are added and stirring continued overnight. The solvent is distilled off in vacuo, and the residue is partitioned between aqueous ph7 buffer solution and ethyl acetate. The separated organic layer is dried over magnesium sulfate and concentrated in vacuo. The residue is chromatographed on silica gel (hexane/ethyl acetate=7/1) to give the title compound as colourless crystals. mp: 73°.

reactant | 5-[2-(2,5-dimethoxyphenyl)ethyl]-2-amino benzoic acid methylester | 110 mg | COC(C1=C(C=CC(=C1)CCC1=C(C=CC(=C1)OC)OC)N)=O | C18H21NO4
reactant | sodium hydride | 13 mg | [H-].[Na+]
reactant | methyl iodide | 0.2 ml | CI | CH3I
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 5-[2-(2,5-Dimethoxyphenyl)ethyl]-2-methylamino Benzoic Acid Methylester | COC(C1=C(C=CC(=C1)CCC1=C(C=CC(=C1)OC)OC)NC)=O | C19H23NO4
